US07816522B2
(177d) 5-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-3-(3-hydroxypropoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-1H-pyrazole-4-carboxylic acid
After adding 38 μl of triethylamine, 0.3 mg of 4-dimethylaminopyridine and 46 mg of di-t-butyl dicarbonate to a solution of 55 mg of 5-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-3-(3-hydroxypropoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-1H-pyrazole-4-carboxylic acid ethyl ester trifluoroacetate in 6 ml of an acetonitrile:DMF=2:1 mixed solvent, the mixture was stirred at room temperature for 15 hours. The solvent was removed under reduced pressure, and then 1 ml of methanol and 1 ml of a 1N aqueous sodium hydroxide solution were added and the mixture was stirred at room temperature for 8 hours. After adding 5 ml of a methanol:water:acetic acid=1:1:1 mixed solvent to the reaction mixture, it was stirred and heated at 50° C. for 15 hours. The mixture was cooled and then directly purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give 16 mg of the title compound.

reactant | triethylamine | 38 μl | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 46 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-3-(3-hydroxypropoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-1H-pyrazole-4-carboxylic acid ethyl ester trifluoroacetate | 55 mg | FC(C(=O)O)(F)F.C(C)OC(=O)C=1C=NNC1N1N=C(NC1=O)C(C1=C(C(=CC(=C1)OC)OCCCO)F)NC1=CC=C(C=C1)C(N)=N
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 5-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-3-(3-hydroxypropoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)-1H-pyrazole-4-carboxylic acid | 16 mg | C(N)(=N)C1=CC=C(C=C1)NC(C1=NN(C(N1)=O)C1=C(C=NN1)C(=O)O)C1=C(C(=CC(=C1)OC)OCCCO)F | C24H25FN8O6
